US08017611B2
Sodium hydride (3.76 g) was added portionwise to a stirred solution of methanol (3.82 ml) dissolved in NMP (100 ml) under nitrogen. 3-(7-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine (5.39 g) was added to the stirred mixture. The resulting suspension was stirred at 70° C. for 16 hours. After dilution with water (220 ml) the mixture was extracted with ethyl acetate (3×150 ml. The organic phases were washed with brine, dried over magnesium sulphate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 10 to 50% ethyl acetate in dichloromethane. The solvent was evaporated to dryness to afford 3-(7-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine (2.13 g) as a solid. NMR Spectrum: (DMSOd6) 4.01 (s, 3H), 6.77 (dd, 1H), 7.08 (d, 1H), 7.34 (dd, 1H), 7.40 (dd, 1H), 7.64 (bs, 1H), 8.23 (dd, 1H), 8.27 (dd, 1H); Mass spectrum: M+H+ 242.

reactant | Sodium hydride | 3.76 g | [H-].[Na+]
reactant | methanol | 3.82 ml | CO | CH4O
reactant | 3-(7-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine | 5.39 g | FC1=CC=CC=2N=C(OC21)C=2C(=NC=CC2)N | C12H8FN3O
solvent | NMP | 100 ml | CN1CCCC1=O | C5H9NO
product | 3-(7-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine | 2.13 g | COC1=CC=CC=2N=C(OC21)C=2C(=NC=CC2)N | C13H11N3O2
